US07919506B2
Preparation 9: 2-(2-Bromo-5-iodo-4-methylbenzyl) isoindoline-1,3-dione
To a solution of 5-bromo-2-iodo toluene (512 mg, 1.72 mmol) in trifluoroacetic acid (5 mL) was added N-(hydroxymethy) phthalimide (305 mg, 1.72 mmol). The mixture developed a pink color. The solution was stirred at room temperature for 22 hours then concentrated sulfuric acid (1 mL) was added. The homogeneous solution was stirred for 18 hours at room temperature. Water was added and the precipitated solid collected by filtration and dried in a current of air (0.776 gm). This material, which by proton NMR analysis contained approximately 15% of an isomeric product, was carried forward to the following procedure without further purification. 1H NMR (400 MHz, CDCl3) δ7.85 (m, 2H) 7.76(m, 2H) 7.5 (s, 1H) 7.38(s, 1H) 4.84(s, 2H) 2.31(s, 3H).

reactant | 5-bromo-2-iodo toluene | 1.72 mmol, 512 mg | BrC=1C=CC(=C(C1)C)I | C7H6BrI
reactant | N-(hydroxymethy) phthalimide | 1.72 mmol, 305 mg | OCN1C(C=2C(C1=O)=CC=CC2)=O | C9H7NO3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | Water | O | H2O
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(2-Bromo-5-iodo-4-methylbenzyl) isoindoline-1,3-dione | BrC1=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C(C(=C1)C)I | C16H11BrINO2
